US07273879B2
Into 2.5 ml of N,N-dimethylformamide were dissolved 200 mg of 5-chloro-3-methylthio-1,2,4-thiadiazole and 207 mg of 4-chloro-3-pyridylmethyl alcohol, 59 mg of sodium hydride (60% in oil) was added thereto under ice-cooling, and the reaction mixture was stirred for 0.5 hour under ice-cooling and for 1 hour at room temperature. The reaction mixture was added to saturated ammonium chloride aqueous solution, and extracted with t-butyl methyl ether. The organic layer was concentrated, and the residue obtained was subjected to silica gel column chromatography to give 170 mg of 5-(6-chloro-3-pyridyl)methyloxy-3-methylthio-1,2,4-thiadiazole (hereinafter, referred to as the present compound (21)).

reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 200 mg | ClC1=NC(=NS1)SC | C3H3ClN2S2
reactant | 4-chloro-3-pyridylmethyl alcohol | 207 mg | ClC1=C(C=NC=C1)CO | C6H6ClNO
reactant | sodium hydride | 59 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | 5-(6-chloro-3-pyridyl)methyloxy-3-methylthio-1,2,4-thiadiazole | 170 mg | ClC1=CC=C(C=N1)COC1=NC(=NS1)SC | C9H8ClN3OS2
